US05338739
3-{1-[2-(4-Morpholinyl)ethyl]-5-oxo-2-pyrrolidinyl}phenyl methylcarbamate
To a solution of 5-(3-hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone (1.1 g) in dry tetrahydrofuran (50 ml) was added methyl isocyanate (0.26 ml) at ambient temperature, with stirring, over ten mins. Milled potassium carbonate was added, and the reaction mixture was stirred for 17 hrs. The mixture was filtered through a pad of celite. The filter cake was washed with ethyl acetate and the combined filtrates were concentrated. The residue was purified by flash column chromatography (silica gel, ether/0-50% methanol). The appropriate fractions were collected and concentrated to give 1.2 g (89%) of product. Crystallization of the residue from ether gave the analytical sample, mp 100°-102° C.

reactant | 5-(3-hydroxyphenyl)-1-[2-(4-morpholinyl)ethyl]-2-pyrrolidinone | 1.1 g | OC=1C=C(C=CC1)C1CCC(N1CCN1CCOCC1)=O | C16H22N2O3
reactant | methyl isocyanate | 0.26 ml | CN=C=O | C2H3NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-{1-[2-(4-Morpholinyl)ethyl]-5-oxo-2-pyrrolidinyl}phenyl methylcarbamate | 1.2 g, 89% | CNC(OC1=CC(=CC=C1)C1N(C(CC1)=O)CCN1CCOCC1)=O | C18H25N3O4
